US07067506B2
Step 1: (1-Ethyl-1,2,3,4-tetrahydro-quinolin-3-yl)-methanol.
To a stirred solution of 1-Ethyl-1,2,3,4-tetrahydro-quinoline-3-carboxylic acid methyl ester (123 mg, 0.56 mmol) in 1.5 mL of Et2O at 0° C. under nitrogen. LAH (1M in Et2O) was added dropwise with vigorous gas evolution and a white precipitate formation. After 30 min., TLC in 3/7 EtOAc/hexane showed complete loss of s.m. and appearance of a clean lower rf spot. The reaction was carefully quenched with 15% NaOH (3 mL) and 3 mL of Et2O was added and the mixture stirred rapidly at RT for 15 min. The layers were separated and the aqueous layer extracted 1×10 mL with Et2O. The organics were combined, dried (MgSO4), filtered and concentrated to a clear oil corresponding to the desired alcohol (105 mg, 95%).

reactant | 1-Ethyl-1,2,3,4-tetrahydro-quinoline-3-carboxylic acid methyl ester | 0.56 mmol, 123 mg | COC(=O)C1CN(C2=CC=CC=C2C1)CC | C13H17NO2
reactant | LAH | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | Et2O | 1.5 mL | CCOCC | C4H10O
product | (1-Ethyl-1,2,3,4-tetrahydro-quinolin-3-yl)-methanol | C(C)N1CC(CC2=CC=CC=C12)CO | C12H17NO
